US04539419
Under argon, 2.8 ml of acetyl chloride was added to a suspension of 5.15 g of aluminum chloride in 120 ml of dichloroethane and then 8 g of 4-[(7-hydroxy-2-naphthalenyl)oxy] butanoic acid methyl ester was added. The resulting mixture was stirred at room temperature for 30 minutes and at reflux for 16 hours. The solution was filtered and the dark residue was broken up with 3N hydrochloric acid and extracted with methylene chloride. The filtrate was combined with the methylene chloride extract, washed and dried to give a black oil which was purified by high pressure liquid chromatography, eluting with 2% ethyl acetate/toluene to yield 2.72 g, (29%) of 4-[(8-acetyl-7-hydroxy-2-naphthalenyl)oxy] butanoic acid methyl ester as an oil.

reactant | acetyl chloride | 2.8 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 5.15 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-[(7-hydroxy-2-naphthalenyl)oxy] butanoic acid methyl ester | 8 g | COC(CCCOC1=CC2=CC(=CC=C2C=C1)O)=O | C15H16O4
solvent | dichloroethane | 120 ml | ClC(C)Cl | C2H4Cl2
product | 4-[(8-acetyl-7-hydroxy-2-naphthalenyl)oxy] butanoic acid methyl ester | 29% | COC(CCCOC1=CC2=C(C(=CC=C2C=C1)O)C(C)=O)=O | C17H18O5
